2188-12-13 08:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2188-12-12**] 08:00 AM
 OR SENT - At [**2188-12-12**] 02:08 PM
   Went into SVT again last night at about 2 am.  Received Adenosine and
   converted into SR with rates of 100s.
   Went to OR yesterday for closure of fasciotomy which went without
   complication
   Started heparin gtt last night but patient felt very warm and became
   tachycardic a few minutes after infusion began.  Heparin gtt was then
   stopped out of concern for allergic reaction.
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-13**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2188-12-12**] 04:34 PM
   Adenosine - [**2188-12-13**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-13**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 97 (86 - 174) bpm
   BP: 128/66(79) {93/51(65) - 153/82(118)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,978 mL
                                                                  1,174 mL
   PO:
                                                                    600 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,378 mL
                                                                    694 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    264 mL
   Urine:
                                                                    790 mL
                                                                    264 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    910 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   10.6 g/dL
   146 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   12 mg/dL
   105 mEq/L
   138 mEq/L
   32.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
   WBC
   7.7
   Hct
   32.1
   Plt
   261
   Cr
   0.9
   TropT
   0.04
   0.03
   Glucose
   146
   Other labs: PT / PTT / INR:29.2/33.0/2.9, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HEADACHE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   79 yo F with F with history of NSCLC with liver mets with recent
   bilateral PE diagnosis now s/p fasciotomy on [**12-10**] for left calf
   hematoma-related compartment syndrome, transferred to MICU for
   tachycardia and hypotension.
   .
   #  Tachycardia and hypotension: EKG appeared to be narrow complex
   tachycardia. Convereted to NSR with 6mg IV adenosine x1. Hypotension
   resolved at that time. Underlying causes could be recent surgery, 2
   missed doses of diltiazem yesterday, new PE, hyperthyroidism, MI.
   -restart diltiazem 60mg po tid, per prior regimen
   -anticoagulation held over night per surgery, given plans for OR this
   morning. Will restart lovenox after OR.
   -obtain TSH, cycle CEs
   -pan culture
   -continue to monitor on telemetry
   .
   # bilateral PEs: likely secondary to known metastatic malignancy.
   Currently on no anticoagulation given plans to take her back to OR
   today. Given that scheduled OR time is in 3 hours, will not start
   heparin gtt.
   -restart lovenox for anticoagulation once patient returns from OR
   .
   # L leg compartment syndrome: currently has wound vac in place. Plans
   to take her to OR for closure today.
   -f/u ortho recs
   -continue cefazolin perioperatively
   .
   # Normocytic anemia: HCT 26.8. Stable over this hospitalization.
   Baseline appears to be around 30. Likely fluctuating in the setting of
   recent surgery.
   -monitor daily HCTs
   -transfuse for HCT<24
   .
   # Metastatic NSCLC: Not actively being treated during this
   hospitalization.
   .
   # FEN: IVFs / replete lytes prn / NPO for procedure.
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:  husband
   # DISPO: ICU -may be called out after surgery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-12**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-12-13 17:13:00 Physician Attending Progress Note
Chief Complaint: L calf compartment syndrome, metastatic NSCLC, AVNRT
   HPI:
   79F (h/o metastatic NSCLC s/p RML lobectomy and chemo, bilateral PE in
   [**10/2188**]) present with L calf compartment syndrome [**3-10**] hematoma requiring
   fasciotomy. POD2 pt developed AVNRT and transferred to MICU for
   adenosine.
   24 Hour Events:
   Returned to OR for closure of calf.
   Episode of AVNRT x1 for 5 mins that broke with adenosine. SBP in 90's
   during episode.
   History obtained from Patient
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-13**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Adenosine - [**2188-12-13**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Edema, No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Signs or concerns for abuse : No
   Pain: [**4-9**] Mild
   Flowsheet Data as of  [**2188-12-13**] 05:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 116 (91 - 174) bpm
   BP: 157/67(87) {93/40(55) - 161/102(106)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,978 mL
                                                                  2,469 mL
   PO:
                                                                    600 mL
                                                                    580 mL
   TF:
   IVF:
                                                                  1,378 mL
                                                                  1,889 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                  1,024 mL
   Urine:
                                                                    790 mL
                                                                  1,024 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                  1,445 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   throughout R side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): a/ox3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.6 g/dL
   261 K/uL
   146 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   12 mg/dL
   105 mEq/L
   138 mEq/L
   32.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
   WBC
   7.7
   Hct
   32.1
   Plt
   261
   Cr
   0.9
   TropT
   0.04
   0.03
   Glucose
   146
   Other labs: PT / PTT / INR:29.2/33.0/2.9, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   79F (h/o metastatic NSCLC s/p RML lobectomy and chemo, bilateral PE in
   [**10/2188**]) is s/p fasciotomy and closure for L calf compartment syndrome
   [**3-10**] hematoma and s/p AVNRT x2 that resolved with adenosine.
   #s/p compartment syndrome / post-op fasciotomy
   --cont pain meds: dilaudid
   --bowel regimen
   --ortho recs
   #R lung crackles: Possible fluid overload. No SOB.
   [] CXR
   #s/p PE 1 month ago.
   [] on coumadin
   --long-term, the patient's primary oncologist will have to weigh the
   risk-benefit of lovenox versus coumadin for this oncology patient
   #sinus tach to 110's: Baseline HR 90's. Etiology is unclear.
   [] 1L NS x1 to assess for response.
   #AVNRT. Precipitant is unclear but includes the surgery. (TSH 1.1,
   blood/urine cx neg to date)
   [] diltiazem 60mg PO tid restarted overnight. Increase to q6Hr.
   ICU Care
   Nutrition:
   Comments: cardiac PO diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2188-12-12**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined this pt, and was physically present with the ICU
   team for the key portions of services provided. I agree with Dr. [**First Name (STitle) 575**]
   note, including assessment and plan. Recurrent episode of SVT
   overnight, requiring adenosine.  Currently in sinus rhythm, though
   tachycardic. Suboptimal pain control likely contributing. Plan to
   increase diltiazem and pain regimen. Appears okay for floor transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2188-12-13**] 18:39 ------

2188-12-14 08:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - still holding coumadin; Onc OK with coumadin over lovenox
   - Dispo had been set for the floor, but then pt in SVT peaked to
   170-190. Not too much BP room last night for further uptitiration of
   dilt. Floor teams hesitant to take as she will likely do this again.
   - Plan for EP c/s in AM; consider ablation if w/in goals of care
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Adenosine - [**2188-12-13**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-14**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 93 (91 - 183) bpm
   BP: 147/63(79) {98/40(61) - 161/102(106)} mmHg
   RR: 17 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,676 mL
                                                                    372 mL
   PO:
                                                                    820 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,856 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,924 mL
                                                                    770 mL
   Urine:
                                                                  1,924 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    752 mL
                                                                   -398 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   slight on R side)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   10.6 g/dL
   146 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   12 mg/dL
   105 mEq/L
   138 mEq/L
   32.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
   WBC
   7.7
   Hct
   32.1
   Plt
   261
   Cr
   0.9
   TropT
   0.04
   0.03
   Glucose
   146
   Other labs: PT / PTT / INR:29.2/33.0/2.9, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HEADACHE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   79 yo F with F with history of NSCLC with liver mets with recent
   bilateral PE diagnosis now s/p fasciotomy on [**12-10**] for left calf
   hematoma-related compartment syndrome, transferred to MICU for
   tachycardia and hypotension.
   #  SVT:  Pt has a long hx of SVT. Likely AVNRT. Previously, she was
   always able to manage this with diltiazem and vagal maneuvers.
   Currently, she is on max dose oral diltiazem and has had 1 episode last
   night, followed by 7 episodes so far this am. All episodes have been
   symptomatic and have terminated with adenosine.
   - plan for EPS and ablation tomorrow
   - cont diltiazem 90mg po qid
   -coumadin restarted, INR > 2.0, hold today
s dose in anticipation of
   procedure tomorrw
   - Adenosine PRN
   -continue to monitor on telemetry
   .
   # bilateral PEs: likely secondary to known metastatic malignancy.
   Heparin attempted last night but patient became tachycardic and felt
   hot.  Would recommend to not use heparin in the future.  Restarted
   coumadin which she tolerated well
   - cont coumadin
   - follow INR
   -  Onc OK with coumadin over lovenox evening setting of maligancy
   .
   # L leg compartment syndrome: went to OR for closure, doing well.
   -f/u ortho recs
   -continue cefazolin perioperatively, need to determine course
   .
   # Normocytic anemia: HCT 26.8. Stable over this hospitalization.
   Baseline appears to be around 30. Likely fluctuating in the setting of
   recent surgery.
   -monitor daily HCTs
   -transfuse for HCT<24
   .
   # Metastatic NSCLC: Not actively being treated during this
   hospitalization.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, coumadin, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:  husband
   # DISPO: ICU -may be called out after surgery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-12**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-12-14 08:21:00 Physician Attending Progress Note
Chief Complaint:
   HPI: 79F (h/o metastatic NSCLC s/p RML lobectomy and chemo, bilateral
   PE in [**10/2188**]) is s/p fasciotomy and closure for L calf compartment
   syndrome [**3-10**] hematoma and s/p AVNRT x Multiple episodes resolves with
   adenosine.
   24 Hour Events:
   SVT with SBP 80
s yesterday and this AM x7, broke with adenosine. BB IV
   and ativan started to counteract catecholamine surge.
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Adenosine - [**2188-12-13**] 08:45 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-14**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 93 (91 - 183) bpm
   BP: 147/63(79) {98/40(61) - 161/102(106)} mmHg
   RR: 17 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,676 mL
                                                                    374 mL
   PO:
                                                                    820 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,856 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,924 mL
                                                                    770 mL
   Urine:
                                                                  1,924 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    752 mL
                                                                   -396 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: A/Ox3, NAD, anxious
   Heent: Oropharynx clear
   Cor: tachy regular no m/r/g
   Lung: CTA-B
   Abd: soft nt +BS
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: Intact), (Left radial pulse:
   Intact),
   Skin: Intact
   Neurologic:non-focal
   Labs / Radiology
   10.6 g/dL
   261 K/uL
   146 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   12 mg/dL
   105 mEq/L
   138 mEq/L
   32.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
   WBC
   7.7
   Hct
   32.1
   Plt
   261
   Cr
   0.9
   TropT
   0.04
   0.03
   Glucose
   146
   Other labs: PT / PTT / INR:29.2/33.0/2.9, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   79F (h/o metastatic NSCLC s/p RML lobectomy and chemo, bilateral PE in
   [**10/2188**]) is s/p fasciotomy and closure for L calf compartment syndrome
   [**3-10**] hematoma and s/p AVNRT x2 that resolved with adenosine.
   #SVT: Precipitant is unclear but includes the surgery. (TSH 1.1,
   blood/urine cx neg to date)
   [] diltiazem 60mg PO q6Hr
   [] lopressor 2.5mg IV x1 now. Start lopressor PO
   [] cards / EP consulted and will take to EP lab tomorrow
   [] ativan and dilaudid PRN to reduce catecholamine drive
   #s/p compartment syndrome / post-op fasciotomy
   --cont pain meds: dilaudid IV
   --bowel regimen
   --ortho recs
   #s/p PE 1 month ago.
   [] coumadin held, monitor INR
   --long-term, oncology OK with coumadin
   [] pt may need bridging if coumadin needs to be held for procedure
   (e.g. if EP wanted to do)
   #sinus tach to 100-110: per chart, prior baseline HR 90's. Etiology is
   unclear. [**Name2 (NI) 7080**].
   ICU Care
   Nutrition: cardiac PO diet
   Glycemic Control:  good glucose control
   Lines:
   20 Gauge - [**2188-12-12**] 08:00 AM
   Prophylaxis:
   DVT: on coumadin
   Stress ulcer: PPI
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : MICU while SVT managed
   Total time spent:  30mins
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She is doing better with IV esmolol now and has no issues with
   recurrent SVT. She does not tolerate HR when greater than 140 well. She
   is due to have EP evaluation in am [**2188-12-15**]. We will hold
   anticoagulation for this and when cleared start low dose coumadin for
   DVT
s. I am concerned she may need the added help of an IVC filter till
   bleeding issues have settled. Her family has been updated at the
   bedside.
   Patient is chronically ill
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2188-12-14**] 15:55 ------

2188-12-15 06:15:00 Physician Resident Progress Note
Chief Complaint: rapid heart rate
   24 Hour Events:
   [**12-14**] AM:
   Had AVNRT which would only break for about 5 seconds with adenosine
   -got 11 doses of adenosine over the course of the morning
   -EP consulted
   -stayed in NSR on esmolol gtt
   -plan for ablation this AM, per EP
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-15**] 12:00 AM
   Infusions:
   Esmolol - 75 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2188-12-14**] 12:20 PM
   Adenosine - [**2188-12-14**] 01:45 PM
   Hydromorphone (Dilaudid) - [**2188-12-14**] 05:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-15**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 70 (70 - 193) bpm
   BP: 100/42(58) {87/37(50) - 164/85(90)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,076 mL
                                                                    717 mL
   PO:
                                                                    480 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    596 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    249 mL
   Urine:
                                                                  1,640 mL
                                                                    249 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -564 mL
                                                                    468 mL
   Respiratory support
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   9.9 g/dL
   115 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   11 mg/dL
   104 mEq/L
   137 mEq/L
   29.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
                             [**2188-12-14**]  11:12 AM
                             [**2188-12-15**]  04:26 AM
   WBC
   7.7
   8.5
   8.1
   Hct
   32.1
   33.6
   29.6
   Plt
   261
   304
   294
   Cr
   0.9
   0.8
   0.8
   TropT
   0.04
   0.03
   Glucose
   146
   111
   115
   Other labs: PT / PTT / INR:29.2/33.0/2.9, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HEADACHE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   79 yo F with F with history of NSCLC with liver mets with recent
   bilateral PE diagnosis now s/p fasciotomy on [**12-10**] for left calf
   hematoma-related compartment syndrome, transferred to MICU for
   tachycardia and hypotension.
   #  SVT:  Pt has a long hx of SVT. Likely AVNRT. Previously, she was
   always able to manage this with diltiazem and vagal maneuvers. After 7
   episodes of AVRNT yesterday morning, that would briefly convert and
   recur, esmolol gtt was started. This seems to have worked well. HR
   maintained in the 80s. All episodes have been symptomatic.
   - plan for EPS and ablation today
   - cont esmolol gtt
d/c-ed all other BB and CCBs
   -coumadin restarted, INR > 2.0, hold today
s dose in anticipation of
   procedure tomorrw
   -continue to monitor on telemetry
   .
   # bilateral PEs: likely secondary to known metastatic malignancy.
   Heparin attempted last night but patient became tachycardic and felt
   hot.  Would recommend to not use heparin in the future.  Restarted
   coumadin which she tolerated well
   - cont coumadin
holding today in the setting of procedure
   - follow INR
   -  Onc OK with coumadin over lovenox evening setting of maligancy
   .
   # L leg compartment syndrome: went to OR for closure, doing well.
   -f/u ortho recs
   -continue cefazolin perioperatively, need to determine course
   .
   # Normocytic anemia: HCT 26.8. Stable over this hospitalization.
   Baseline appears to be around 30. Likely fluctuating in the setting of
   recent surgery.
   -monitor daily HCTs
   -transfuse for HCT<24
   .
   # Metastatic NSCLC: Not actively being treated during this
   hospitalization.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, coumadin, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:  husband
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-14**] 05:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-12-15 09:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - AVNRT requiring 12 doses of adenosine over the morning
   - EP consult - recommended esmolol gtt - now in sinus
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-15**] 12:00 AM
   Infusions:
   Esmolol - 75 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2188-12-14**] 12:20 PM
   Adenosine - [**2188-12-14**] 01:45 PM
   Hydromorphone (Dilaudid) - [**2188-12-14**] 05:13 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-15**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 73 (70 - 193) bpm
   BP: 99/48(58) {87/37(50) - 164/85(90)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,076 mL
                                                                    816 mL
   PO:
                                                                    480 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    596 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    249 mL
   Urine:
                                                                  1,640 mL
                                                                    249 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -564 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2 L NC
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   294 K/uL
   115 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   11 mg/dL
   104 mEq/L
   137 mEq/L
   29.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
                             [**2188-12-14**]  11:12 AM
                             [**2188-12-15**]  04:26 AM
   WBC
   7.7
   8.5
   8.1
   Hct
   32.1
   33.6
   29.6
   Plt
   261
   304
   294
   Cr
   0.9
   0.8
   0.8
   TropT
   0.04
   0.03
   Glucose
   146
   111
   115
   Other labs: PT / PTT / INR:56.4/51.3/6.3, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR - R effusion, improved since [**12-13**].
   Microbiology: No cultures.
   Assessment and Plan
   79F (h/o metastatic NSCLC s/p RML lobectomy and chemo, bilateral PE in
   [**10/2188**]) is s/p fasciotomy and closure for L calf compartment syndrome
   [**3-10**] hematoma and s/p AVNRT x2 that resolved with adenosine.
   #s/p compartment syndrome / post-op fasciotomy
   --cont pain meds: dilaudid
   --bowel regimen
   --ortho recs
   #R lung crackles: Possible fluid overload. No SOB.
   - CXR
   #s/p PE 1 month ago.
   - on coumadin with supratherapeutic INR
   - vit K and FFP for EP study today
   - Long-term, the patient's primary oncologist will have to weigh the
   risk-benefit of lovenox versus coumadin for this oncology patient
   #sinus tach to 110's: Baseline HR 90's. Etiology is unclear.
   - 1L NS x1 to assess for response.
   #AVNRT. Precipitant is unclear but includes the surgery. (TSH 1.1,
   blood/urine cx neg to date)
   - diltiazem 60mg PO tid restarted overnight. Increase to q6Hr.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-14**] 05:19 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2188-12-16 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2188-12-15**] 11:50 AM
 EKG - At [**2188-12-15**] 05:19 PM
 EKG - At [**2188-12-15**] 05:19 PM
   Pt c/o [**4-15**]  CP/
   Went for ablation yesterday, which per EP fellow was successful.
   Recommended starting Metoprolol 12.5mg PO BID
   Became wheezy yesterday after her procedure, CXR showed increased
   vascular congestion, Gave Lasix 20mg IV x 1 with good response
   Had some abdominal pain: HCT stable. Disempacted overnight. Resolved by
   this morning.
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-16**] 01:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-12-15**] 05:18 PM
   Hydromorphone (Dilaudid) - [**2188-12-15**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-16**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 96 (71 - 106) bpm
   BP: 131/74(87) {99/32(52) - 157/87(92)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,129 mL
                                                                    126 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,149 mL
                                                                    126 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,244 mL
                                                                    300 mL
   Urine:
                                                                  2,244 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                   -174 mL
   Respiratory support
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Gen: NAD
   Lungs: CTAB. No crackles. Occasional wheezes bilaterally.
   CV: RRR. No murmurs.
   Abdomen: Soft, NT, ND. No masses. No rebound or guarding
   Extremities: Bruises of LLE. Warm, well perfused. No edema.
   Labs / Radiology
   285 K/uL
   9.3 g/dL
   109 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   28.9 %
   6.4 K/uL
        [image002.jpg] Culture data negative to date
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
                             [**2188-12-14**]  11:12 AM
                             [**2188-12-15**]  04:26 AM
                             [**2188-12-15**]  03:04 PM
                             [**2188-12-15**]  07:45 PM
                            [**2188-12-16**]  02:54 AM
   WBC
   7.7
   8.5
   8.1
   7.2
   6.4
   Hct
   32.1
   33.6
   29.6
   31.5
   28.8
   28.9
   Plt
   261
   304
   294
   308
   285
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   TropT
   0.04
   0.03
   Glucose
   146
   111
   115
   118
   109
   Other labs: PT / PTT / INR:23.4/37.7/2.2, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 HEADACHE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   79 yo F with F with history of NSCLC with liver mets with recent
   bilateral PE diagnosis now s/p fasciotomy on [**12-10**] for left calf
   hematoma-related compartment syndrome, transferred to MICU for
   tachycardia and hypotension.
   #  SVT:  Patient went for ablation which was successful per EP fellow
   - f/u EP recs
   - continue low dose BB
   -continue to monitor on telemetry
   .
   # bilateral PEs: likely secondary to known metastatic malignancy.
   Heparin attempted a few nights ago but patient became tachycardic and
   felt hot.  Would recommend to not use heparin in the future.  Restarted
   coumadin which she tolerated well
   - coumadin held for ablation, consider restarting tomorrow
   - follow INR
   -  Onc OK with coumadin over lovenox in setting of maligancy
   .
   # L leg compartment syndrome: went to OR for closure, doing well.
   -ortho follow up in 2 weeks
   -discontinue cefazolin
   .
   # Normocytic anemia: HCT stable at 28.9.
   -monitor daily HCTs
   -transfuse for HCT<24
   .
   # Metastatic NSCLC: Not actively being treated during this
   hospitalization.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, bowel regimen, anticoagulated
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:  husband
   # DISPO: d/c to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-14**] 05:19 PM
   22 Gauge - [**2188-12-15**] 06:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-12-16 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - S/p EP ablation
   - Wheezing after procedure - diuresed with improvement
   - Added metoprolol 12.5 [**Hospital1 7**]
   - No further episdoes of SVT
   - Abd pain after procedure - resolved with disimpaction. Hct stable.
   Allergies:
   Morphine
   delirious; conf
   Oxycontin (Oral) (Oxycodone Hcl)
   delirious
   confu
   Penicillins
   Hives; Rash; pr
   Prednisone
   was told by MD
   Codeine
   Unknown;
   Advair Diskus (Inhalation) (Fluticasone/Salmeterol)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefazolin - [**2188-12-16**] 08:50 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-12-15**] 05:18 PM
   Hydromorphone (Dilaudid) - [**2188-12-16**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-16**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 96 (77 - 106) bpm
   BP: 132/43(61) {127/32(52) - 157/87(92)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,129 mL
                                                                    300 mL
   PO:
                                                                    480 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,149 mL
                                                                    200 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  2,244 mL
                                                                    630 mL
   Urine:
                                                                  2,244 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   285 K/uL
   109 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   28.9 %
   6.4 K/uL
        [image002.jpg]
                             [**2188-12-12**]  04:22 PM
                             [**2188-12-13**]  05:06 AM
                             [**2188-12-14**]  11:12 AM
                             [**2188-12-15**]  04:26 AM
                             [**2188-12-15**]  03:04 PM
                             [**2188-12-15**]  07:45 PM
                            [**2188-12-16**]  02:54 AM
   WBC
   7.7
   8.5
   8.1
   7.2
   6.4
   Hct
   32.1
   33.6
   29.6
   31.5
   28.8
   28.9
   Plt
   261
   304
   294
   308
   285
   Cr
   0.9
   0.8
   0.8
   0.8
   0.8
   TropT
   0.04
   0.03
   Glucose
   146
   111
   115
   118
   109
   Other labs: PT / PTT / INR:23.4/37.7/2.2, CK / CKMB /
   Troponin-T:296/3/0.03, Differential-Neuts:80.9 %, Lymph:11.5 %,
   Mono:5.5 %, Eos:1.9 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Imaging: [**12-15**] pm
 Pulmonary edema with R effusion.
   Microbiology: No new culture data.
   Assessment and Plan
   79F (h/o metastatic NSCLC s/p RML lobectomy and chemo, bilateral PE in
   [**10/2188**]) is s/p fasciotomy and closure for L calf compartment syndrome
   [**3-10**] hematoma and s/p AVNRT requiring EP ablation.
   #AVNRT. Precipitant is unclear but includes the surgery. (TSH 1.1,
   blood/urine cx neg to date). S/p EP ablation yesterday.
   - Metoprolol
   - F/U EP recs
   #S/p compartment syndrome / post-op fasciotomy
   - Cont pain meds: PO dilaudid
   - Bowel regimen
   - Ortho recs
 D/C keflex and outpatient follow-up
   # S/p PE 1 month ago.
   - On coumadin
   - Long-term, the patient's primary oncologist will have to weigh the
   risk-benefit of lovenox versus coumadin for this oncology patient
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-14**] 05:19 PM
   22 Gauge - [**2188-12-15**] 06:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes